US04182776
Ethyl p-{[2-(2,4-dichlorophenoxy)ethyl]amino}benzoate
A solution of 22.8 g of β-bromo-2,4-dichlorophenetole and 29.8 g of ethyl 4-aminobenzoate in 100 ml of hexamethylphosphoramide is heated at 125° C. for 16 hours. The solution is chilled, diluted with water (80 ml) and filtered. The solid is washed with 50% ethanol to give the product. Recrystallization from ethanol gives crystals, mp 111°-113° C.

reactant | β-bromo-2,4-dichlorophenetole | 22.8 g | BrCCOC1=C(C=C(C=C1)Cl)Cl | C8H7BrCl2O
reactant | ethyl 4-aminobenzoate | 29.8 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | 100 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | 80 ml | O | H2O
product | Ethyl p-{[2-(2,4-dichlorophenoxy)ethyl]amino}benzoate | ClC1=C(OCCNC2=CC=C(C(=O)OCC)C=C2)C=CC(=C1)Cl | C17H17Cl2NO3
